US07179943B2
(1S)-N-[4-(trifluoromethyl)phenyl]-1,8,8-trimethyl-2,4-dioxobicyclo[3.2.1] octane-3-carboxamide
To an ice-cooled solution of (1S)-1,8,8-trimethylbicyclo[3.2.1]octane-2,4-dione (0.36 g, 2.0 mmole), triethylamine (0.20 g, 2.0 mmole) and 4-(dimethylamino)pyridine (0.24 g, 2.0 mmole) in dry dichloromethane (20 mL) was added a solution of 4-(trifluoromethyl)phenyl isocyanate (0.41 g, 2.2 mmole) in dry dichloromethane (3 mL). The resulting reaction mixture was allowed to stir overnight under a nitrogen atmosphere, during which time it came up to room temperature. The resulting mixture was concentrated on a rotary evaporator and then partitioned between dichloromethane and 2N aqueous HCl. The acidic aqueous layer was extracted with two additional portions of dichloromethane. The combined organic layers were dried over anhydrous sodium sulfate and concentrated on a rotary evaporator to give a yellow oil, which was purified by chromatography on silica gel (10% ethyl acetate/hexane) to yield the title compound as an orange solid (0.36 g, 49% yield), mp=81–83° C.; MS (−) ESI m/z=366 (M−H)−; [α]D25=−25.6° (c=1, EtOH).

reactant | (1S)-1,8,8-trimethylbicyclo[3.2.1]octane-2,4-dione | 2.0 mmole, 0.36 g | C[C@]12C(CC(C(CC1)C2(C)C)=O)=O | C11H16O2
reactant | triethylamine | 2.0 mmole, 0.20 g | C(C)N(CC)CC | C6H15N
reactant | 4-(trifluoromethyl)phenyl isocyanate | 2.2 mmole, 0.41 g | FC(C1=CC=C(C=C1)N=C=O)(F)F | C8H4F3NO
catalyst | 4-(dimethylamino)pyridine | 2.0 mmole, 0.24 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | (1S)-N-[4-(trifluoromethyl)phenyl]-1,8,8-trimethyl-2,4-dioxobicyclo[3.2.1] octane-3-carboxamide | 0.36 g, 49% yield | FC(C1=CC=C(C=C1)NC(=O)C1C([C@]2(CCC(C1=O)C2(C)C)C)=O)(F)F | C19H20F3NO3
